US07696202B2
1-(6-chloro-2-morpholin-4-yl-pyrimidin-4-yloxy)-2-methyl-propan-2-ol (2.58 g) was dissolved in dioxane (50 mL) and hydrazine (3 mL) was added. The solution was heated to reflux for one hour, at which point the solvent was evaporated. The solid was dissolved in dichloromethane (200 mL) and washed with 10% sodium carbonate (10 mL). The organic layer was dried over magnesium sulfate and evaporated to give 1-(6-hydrazino-2-morpholin-4-yl-pyrimidin-4-yloxy)-2-methyl-propan-2-ol, which was used without purification in the next reaction.

reactant | 1-(6-chloro-2-morpholin-4-yl-pyrimidin-4-yloxy)-2-methyl-propan-2-ol | 2.58 g | ClC1=CC(=NC(=N1)N1CCOCC1)OCC(C)(O)C | C12H18ClN3O3
reactant | hydrazine | 3 mL | NN | H4N2
solvent | dioxane | 50 mL | O1CCOCC1 | C4H8O2
product | 1-(6-hydrazino-2-morpholin-4-yl-pyrimidin-4-yloxy)-2-methyl-propan-2-ol | N(N)C1=CC(=NC(=N1)N1CCOCC1)OCC(C)(O)C | C12H21N5O3
